US04349681
6.5 g of 2,3-dichloro-5-trifluoromethylpyridine and 20 ml of 28% aqueous ammonia were placed in a 50 ml autoclave, and the mixture was reacted for 24 hours at 100° C., and further for 5 hours at 125° C. (inner pressure: about 2 atms.). After completion of the reaction, the reaction product was allowed to cool to obtain crystals. The thus obtained crystals were then washed with water and dried to obtain 1.5 g of 2-amino-3-chloro-5-trifluoromethylpyridine having a melting point of 90° to 92° C.

reactant | 2,3-dichloro-5-trifluoromethylpyridine | 6.5 g | ClC1=NC=C(C=C1Cl)C(F)(F)F | C6H2Cl2F3N
reactant | ammonia | 20 ml | N | H3N
product | 2-amino-3-chloro-5-trifluoromethylpyridine | 1.5 g | NC1=NC=C(C=C1Cl)C(F)(F)F | C6H4ClF3N2
